US04198420
2.3 g of 99% sodium hydride are slowly added to a mixture, under nitrogen, of 4.3 g of 2-(4-fluorophenylthio)benzyl cyanide in 30 mls of dimethylsulfoxide. After total addition, the mixture is stirred for an additional five minutes and then a mixture of 3.9 g of 95% mechlorethamine hydrochloride in 20 ml of dimethylsulfoxide is added portionwise over a 40 minute span. After this addition, the reaction is stirred for one hour in a hot water bath at 70° C. and then permitted to stand at ambient temperature for 16 hours. The cooled reaction mixture is poured onto 150 ml of crushed ice and the diluted mixture is extracted thrice with 60 ml portions of ether. The combined ether extracts are successively washed with one 25 ml portion of a saturated sodium chloride solution and dried, providing 4-cyano-4-[2-(4-fluorophenylthio)phenyl]-1-methylpiperidine.

reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 2-(4-fluorophenylthio)benzyl cyanide | 4.3 g | FC1=CC=C(C=C1)SC1=C(CC#N)C=CC=C1 | C14H10FNS
reactant | mechlorethamine hydrochloride | 3.9 g | CN(CCCl)CCCl.Cl
solvent | dimethylsulfoxide | 30 mls | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-cyano-4-[2-(4-fluorophenylthio)phenyl]-1-methylpiperidine | C(#N)C1(CCN(CC1)C)C1=C(C=CC=C1)SC1=CC=C(C=C1)F | C19H19FN2S
